US06964974B2
In analogy to example 1.2a, 1.3, 1.4 and 1.5, reaction of 4-Hydroxy-piperidine with 1,5-dibromopentane, (4-fluoro-phenyl)-acetyl chloride and N-methylcyclopropylamine yielded 1-{4-[5-(Cyclopropyl-methyl-amino)-pentyloxy]-piperidin-1-yl}-2-(4-fluoro-phenyl)-ethanone, MS: 377 (MH+).

reactant | 4-Hydroxy-piperidine | OC1CCNCC1 | C5H11NO
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
reactant | (4-fluoro-phenyl)-acetyl chloride | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | N-methylcyclopropylamine | CNC1CC1 | C4H9N
product | 1-{4-[5-(Cyclopropyl-methyl-amino)-pentyloxy]-piperidin-1-yl}-2-(4-fluoro-phenyl)-ethanone | C1(CC1)N(CCCCCOC1CCN(CC1)C(CC1=CC=C(C=C1)F)=O)C | C22H33FN2O2
